US04654348
2-Methyl-3-hydroxy-7-n-butylthio-pyrazolo[4,3-d]pyrimidine
1.2 g of 2-methyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine was dissolved in 50 ml of aqueous ammonia, and after an addition of 1.08 g of n-butyl bromide, the mixture was stirred at room temperature for 5 hours. By means of a rotary evaporator, ammonia gas was distilled off at room temperature. Then, the aqueous solution was acidified with hydrochloric acid and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, and then evaporated to dryness. The remaining solid was recrystallized from acetone.

reactant | 2-methyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine | 1.2 g | CN1N=C2C(N=CN=C2S)=C1O | C6H6N4OS
reactant | n-butyl bromide | 1.08 g | C(CCC)Br | C4H9Br
solvent | ammonia | 50 ml | N | H3N
product | 2-Methyl-3-hydroxy-7-n-butylthio-pyrazolo[4,3-d]pyrimidine | CN1N=C2C(N=CN=C2SCCCC)=C1O | C10H14N4OS
